US07820673B2
83a) 1-benzyl-N-((1H-imidazol-4-yl)methyl)-4-piperidinamine
To a solution of 1-benzyl-4-piperidinamine (3.4 g), imidazole-4-carbaldehyde (1.4 g) and acetic acid (1.7 ml) in 1,2-dichloroethane (100 ml) was added sodium triacetoxyborohydride (4.7 g), and mixed at room temperature for 15 hours. A 1 N aqueous sodium hydroxide solution was added to the reaction solution and pH of the aqueous layer was adjusted to about 12, and then extracted with chloroform (100 ml). The extract was dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure to obtain the title compound as a yellow oil (3.4 g).

reactant | 1-benzyl-4-piperidinamine | 3.4 g | C(C1=CC=CC=C1)N1CCC(CC1)N | C12H18N2
reactant | imidazole-4-carbaldehyde | 1.4 g | N1C=NC(=C1)C=O | C4H4N2O
reactant | sodium triacetoxyborohydride | 4.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
solvent | acetic acid | 1.7 ml | C(C)(=O)O | C2H4O2
product | 1-benzyl-N-((1H-imidazol-4-yl)methyl)-4-piperidinamine | 3.4 g | C(C1=CC=CC=C1)N1CCC(CC1)NCC=1N=CNC1 | C16H22N4
